US05852011
Methyl 3-methoxy-4-[N,N-bis(2-hydroxyethyl)amino]benzoate
Ethylene oxide (16.5 ml; 333 mmol) was added dropwise under ice cooling to a solution of 3.9 g (22 mmol) of methyl 3-methoxy-4-aminobenzoate in 33 ml of a 30% acetic acid suspension. The thus-obtained was stirred for 1 hour and then stirred at room temperature for 2 nights. The mixture was then stirred for 2 hours while bubbling nitrogen gas therethrough. Sodium hydrogencarbonate was added to the mixture to neutralized the same. Sodium chloride was then added until saturation, followed by extraction with ethyl acetate. The extract was dried over magnesium sulfate and the solvent was distilled out under reduced pressure. The residue was purified by chromatography on a silica gel column (methylene chloride/ethyl acetate=1:1→0:1), whereby 3.1 g of a pale yellow oil were obtained (yield: 54%).

reactant | Ethylene oxide | 333 mmol, 16.5 ml | C1CO1 | C2H4O
reactant | methyl 3-methoxy-4-aminobenzoate | 22 mmol, 3.9 g | COC=1C=C(C(=O)OC)C=CC1N | C9H11NO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | Methyl 3-methoxy-4-[N,N-bis(2-hydroxyethyl)amino]benzoate | 3.1 g, yield: 54% | COC=1C=C(C(=O)OC)C=CC1N(CCO)CCO | C13H19NO5
